US08314119B2
2-Chloro-5-phenyl-[1,3,4]thiadiazole
A stirred suspension of 2-amino-5-phenyl-[1,3,4]thiadiazole (6.45 g, 36.4 mmol; Aldrich) and copper (230 mg, 3.6 mmol; Aldrich) in hydrochloric acid (36 mL, 12 M) and glacial acetic acid (180 mL) was chilled to 0° C. and treated with a solution of sodium nitrite (2.64 g, 38.2 mmol; Aldrich) in water (12 mL), added dropwise over 40 minutes. After stirring at room temperature for 4 hours, the mixture was poured into ice water. The aqueous solution was extracted with chloroform (3×), and the combined extracts were washed sequentially with 5% sodium bicarbonate and brine, and dried over sodium sulfate. The crude product was filtered through a short silica gel plug with chloroform to afford the title product: 1H NMR (300 MHz, CDCl3) δ ppm 7.46-7.55 (m, 3H), 7.85-7.93 (m, 2H) MS (DCI/NH3) m/e 197/199 (M+H)+.

reactant | 2-amino-5-phenyl-[1,3,4]thiadiazole | 36.4 mmol, 6.45 g | NC=1SC(=NN1)C1=CC=CC=C1 | C8H7N3S
reactant | sodium nitrite | 38.2 mmol, 2.64 g | N(=O)[O-].[Na+]
reactant | hydrochloric acid | 12 M, 36 mL | Cl | ClH
solvent | acetic acid | 180 mL | C(C)(=O)O | C2H4O2
solvent | water | 12 mL | O | H2O
catalyst | copper | 3.6 mmol, 230 mg | [Cu] | Cu
product | 2-Chloro-5-phenyl-[1,3,4]thiadiazole | ClC=1SC(=NN1)C1=CC=CC=C1 | C8H5ClN2S
